US08471027B2
A solution of 2-chloro-6-trifluoromethyl-nicotinic acid (5 g, 22.2 mmol) in tetrahydrofuran (20 mL) cooled to −78° C. was treated with lithium bis(trimethylsilyl)amide (1.0 M solution in tetrahydrofuran, 66.5 mL, 66.5 mmol). This solution was stirred at −78° C. for 2 h. At this time, the reaction was treated with a solution of aniline (19.6 g, 19.2 mL, 210 mmol) in tetrahydrofuran (20 mL). The reaction was allowed to gradually warm to 25° C. and was stirred at 25° C. overnight. At this time, the reaction mixture was diluted with ethyl acetate (250 mL), washed with a saturated aqueous sodium bicarbonate solution (2×150 mL), water (1×50 mL), and a saturated aqueous sodium chloride solution (1×50 mL). The organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated in ether to afford 2-phenylamino-6-trifluoromethyl-nicotinic acid (6.19 g, 96.9%) as a light brown solid.

reactant | 2-chloro-6-trifluoromethyl-nicotinic acid | 22.2 mmol, 5 g | ClC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO2
reactant | lithium bis(trimethylsilyl)amide | 66.5 mmol, 1.0 M, 66.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | aniline | 210 mmol, 19.2 mL, 19.6 g | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-phenylamino-6-trifluoromethyl-nicotinic acid | 6.19 g, 96.9% | C1(=CC=CC=C1)NC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C13H9F3N2O2
